US08026234B2
Compound 26: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-N-(1-methylpiperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methylbenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-methylpiperidin-4-amine. The final compound was purified by reverse phase HPLC and basified to give the free base 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42-2.04 (m, 16H) 2.10-2.22 (m, 3H) 2.29 (s, 3H) 2.77 (d, J=11.1 Hz, 2H) 3.72 (dd, J=7.3, 4.0 Hz, 1H) 3.98 (t, J=14.0 Hz, 2H) 4.60 (t, J=8.2 Hz, 1H) 7.64 (d, J=8.3 Hz, 1H) 7.68-7.80 (m, 2H) 8.08 (d, J=7.8 Hz, 1H) 8.19 (s, 1H) 8.60 (s, 1H). [M+H] calc'd for C27H35F2N7O2, 528. found 528.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methylbenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)C | C21H23F2N5O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylpiperidin-4-amine | CN1CCC(CC1)N | C6H14N2
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-N-(1-methylpiperidin-4-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)C | C27H35F2N7O2
